US07968573B2
To a mixture of 0.29 g of N,N′-dimethylhydrazine dihydrochloride, 1 ml of water, 0.31 g of potassium carbonate and 10 ml of N,N-dimethylformamide was added 1.0 g of 2-[4-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrrol-2-yl]-6-chloro-8-methyl-4H-3,1-benzoxazine-4-one. The resulting mixture was stirred at room temperature for 6 hours. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate three times. The organic layers were combined, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel chromatography to obtain 0.26 g of 4-bromo-N-[4-chloro-2-(N,N′-dimethylhydrazinocarbonyl)-6-methylphenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrrole-2-carboxamide of the formula:

reactant | N,N′-dimethylhydrazine dihydrochloride | 0.29 g | Cl.Cl.CNNC
reactant | potassium carbonate | 0.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-[4-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrrol-2-yl]-6-chloro-8-methyl-4H-3,1-benzoxazine-4-one | 1.0 g | BrC=1C=C(N(C1)C1=NC=CC=C1Cl)C1=NC2=C(C(O1)=O)C=C(C=C2C)Cl | C18H10BrCl2N3O2
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 1 ml | O | H2O
product | 4-bromo-N-[4-chloro-2-(N,N′-dimethylhydrazinocarbonyl)-6-methylphenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrrole-2-carboxamide | 0.26 g | BrC=1C=C(N(C1)C1=NC=CC=C1Cl)C(=O)NC1=C(C=C(C=C1C)Cl)C(=O)N(NC)C | C20H18BrCl2N5O2
